US08217060B2
Step E: 2-(2-Cyclohexyl-vinyl)-5-(2-trifluoromethyl-phenyl)-1H-benzoimidazole hydrochloride
A solution of 2-(2-cyclohexyl-vinyl)-5-(2-trifluoromethyl-phenyl)-1H-benzoimidazole (0.25 g, 0.66 mmol) in ethyl ether (5 ml) was treated with 2M HCl in ethyl ether (0.36 ml, 0.73 mmol). After five minutes the resulting solution was concentrated and dried in vacuo to yield the title compound.

reactant | 2-(2-cyclohexyl-vinyl)-5-(2-trifluoromethyl-phenyl)-1H-benzoimidazole | 0.66 mmol, 0.25 g | C1(CCCCC1)C=CC1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)C(F)(F)F | C22H21F3N2
reactant | HCl | 2M | Cl | ClH
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 0.73 mmol, 0.36 ml | C(C)OCC | C4H10O
product | 2-(2-Cyclohexyl-vinyl)-5-(2-trifluoromethyl-phenyl)-1H-benzoimidazole hydrochloride | Cl.C1(CCCCC1)C=CC1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)C(F)(F)F | InChI=1S/C22H21F3N2.ClH/c23-22(24,25)18-9-5-4-8-17(18)16-11-12-19-20(14-16)27-21(26-19)13-10-15-6-2-1-3-7-15;/h4-5,8-15H,1-3,6-7H2,(H,26,27);1H
